US05338856
Preparation of 1-(4-Chlorophenyl)-2-(3-(trifluoromethyl)-5-isothiazolyl)ethanone
The oil of a 4.0 g (100 mmol) portion of 60 percent in mineral oil sodium hydride was removed by triple extraction with hexane and was replaced with 100 mL of tetrahydrofuran. 4-Chloroacetophenone (4.33 g, 28 mmol) was added and the mixture was heated at reflux with stirring for 1 hr and then allowed to cool. 5-Methylsulfonyl-3-(trifluoromethyl)isothiazole (4.57 g, 19.8 mmol) dissolved in a small amount of tetrahydrofuran was added and the mixture was heated at reflux with stirring for 3 hr and then allowed to cool. The mixture was next acidified with 60 mL of 10 percent aqueous acetic acid and the layers that formed were separated. The aqueous layer was extracted with 2×100 mL of ether and the organic fractions were combined, washed with aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain a residue. This residue was washed with hexane and crystallized from a 1:1 mixture of dichloromethane and hexane to obtain 3.19 g (53 percent of theory) of the title compound as a solid melting at 109°-110° C.

reactant | 4-Chloroacetophenone | 28 mmol, 4.33 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | 5-Methylsulfonyl-3-(trifluoromethyl)isothiazole | 19.8 mmol, 4.57 g | CS(=O)(=O)C1=CC(=NS1)C(F)(F)F | C5H4F3NO2S2
reactant | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-Chlorophenyl)-2-(3-(trifluoromethyl)-5-isothiazolyl)ethanone | ClC1=CC=C(C=C1)C(CC1=CC(=NS1)C(F)(F)F)=O | C12H7ClF3NOS
